US07511144B2
A solution of 1 M diisobutylaluminum hydride in toluene (14.0 mL, 14.1 mmol) was slowly dropped into a cooled (−78° C.) solution of 1.6 g (5.7 mmol) of 4-methoxycarbonylmethyl-3,3-dimethyl-3,6-dihydro-2H-pyridine-1-carboxylic acid t-butyl ester obtained in the above 1) of PREPARATION EXAMPLE 20 in tetrahydrofuran (70 mL) under an atmosphere of argon. After dropping, the solution was stirred for 2 hours at the same temperature. After the reaction was completed, ethanol (10 mL) was added at 0° C. and the solution was allowed to warm to room temperature gradually. The reaction mixture was then concentrated under a reduced pressure, treated with an aqueous solution of 20% sodium potassium tartrate (50 mL), and stirred for 30 minutes. After stirring, it was extracted with ether, and dried over anhydrous sodium sulfate. After drying, the extract was filtered and the filtrate was concentrated under a reduced pressure. The residue was subjected to silica gel column chromatography (developing solvent, hexane:ethyl acetate=2:1) to obtain 1.1 g (yield 76.4%) of 4-(2-hydroxylethyl)-3,3-dimethyl-3,6-dihydro-2H-pyridine-1-carboxylic acid t-butyl ester. Its physical property is shown below.

reactant | diisobutylaluminum hydride | 1 M | [H-].C(C(C)C)[Al+]CC(C)C
reactant | toluene | 14.1 mmol, 14.0 mL | C1(=CC=CC=C1)C | C7H8
reactant | 4-methoxycarbonylmethyl-3,3-dimethyl-3,6-dihydro-2H-pyridine-1-carboxylic acid t-butyl ester | 5.7 mmol, 1.6 g | C(C)(C)(C)OC(=O)N1CC(C(=CC1)CC(=O)OC)(C)C | C15H25NO4
reactant | ethanol | 10 mL | C(C)O | C2H6O
solvent | tetrahydrofuran | 70 mL | O1CCCC1 | C4H8O
product | 4-(2-hydroxylethyl)-3,3-dimethyl-3,6-dihydro-2H-pyridine-1-carboxylic acid t-butyl ester | 1.1 g, yield 76.4% | C(C)(C)(C)OC(=O)N1CC(C(=CC1)CCO)(C)C | C14H25NO3
